US08791102B2
Proceeding as in Reference 6, but substituting 4-(4-fluoro-2-methylphenoxy)aniline and (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-fluorobenzyl)pyrrolidine-2-carboxylic acid, gave (2S,4R)—N-(4-(4-fluoro-2-methylphenoxy)phenyl)-4-(4-fluorobenzyl)pyrrolidine-2-carboxamide (359 mg, 93%).

reactant | 4-(4-fluoro-2-methylphenoxy)aniline | FC1=CC(=C(OC2=CC=C(N)C=C2)C=C1)C | C13H12FNO
reactant | (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-fluorobenzyl)pyrrolidine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)CC1=CC=C(C=C1)F)C(=O)O | C17H22FNO4
product | (2S,4R)—N-(4-(4-fluoro-2-methylphenoxy)phenyl)-4-(4-fluorobenzyl)pyrrolidine-2-carboxamide | 359 mg, 93% | FC1=CC(=C(OC2=CC=C(C=C2)NC(=O)[C@H]2NC[C@@H](C2)CC2=CC=C(C=C2)F)C=C1)C | C25H24F2N2O2
